US04728645
A solution of 6.0 g of methyl 3-(1H-imidazol-4-yl)propionate and 11 ml of triethylamine in 31 ml of dimethylformamide is treated with a solution of 9.65 g of triphenylmethyl chloride in 110 ml of dimethylformamide for 2 h at room temperature under nitrogen. The reaction mixture is poured onto 700 g of ice, and the resulting solid is collected by filtration and recrystallized from ether to yield 13.83 g of methyl 3-(1-tritylimidazol-4-yl)propionate, NMR (CDCl3) δ=2.75 (m, 4H), 3.05 (s, 3H), 6.5-7.5 (m, 17H).

reactant | methyl 3-(1H-imidazol-4-yl)propionate | 6.0 g | N1C=NC(=C1)CCC(=O)OC | C7H10N2O2
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 9.65 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 31 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | methyl 3-(1-tritylimidazol-4-yl)propionate | 13.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCC(=O)OC | C26H24N2O2
